US06949579B2
The process is performed as in Example 75, starting with 500 mg of 2-chloro-N-(6-chloro-1H-indazol-3-yl)acetamide, 15 cm3 of acetonitrile and 0.62 cm3 of thiomorpholine. The reaction medium is refluxed for 2 hours, the precipitate formed is filtered off and the filtrate is concentrated to dryness under reduced pressure (2 kPa; 50° C.); the crude product obtained is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 2.5 cm), eluting with a cyclohexane/ethyl acetate mixture (50/50 by volume). The fractions containing the expected product are combined, evaporated under reduced pressure (2 kPa; 50° C.) and dried (90 Pa; 45° C.) to give 560 mg of N-(6-chloro-1H-indazol-3-yl)thiomorpholine-4-acetamide in the form of a pale yellow foam.

reactant | 2-chloro-N-(6-chloro-1H-indazol-3-yl)acetamide | 500 mg | ClCC(=O)NC1=NNC2=CC(=CC=C12)Cl | C9H7Cl2N3O
reactant | thiomorpholine | 0.62 cm3 | N1CCSCC1 | C4H9NS
solvent | acetonitrile | 15 cm3 | C(C)#N | C2H3N
product | N-(6-chloro-1H-indazol-3-yl)thiomorpholine-4-acetamide | 560 mg | ClC1=CC=C2C(=NNC2=C1)NC(CN1CCSCC1)=O | C13H15ClN4OS
